US06362177B1
A solution of 4-[(N-(9-fluorenylmethyloxycarbonyl)glycyl}aminomethyl]-1-(4-methylthiobenzyl)piperidine (590 mg) and piperidine (1 mL) in DMF (4 mL) was stirred at room temperature for 2 h. Concentration and column chromatography (SiO2, Et3N:CH3OH:CH2Cl2=1:1:9) afforded 4-{(glycylamino)methyl}-1-(4-methylthiobenzyl)piperidine (365 mg) as a white solid: 1H NMR (CDCl3, 270 MHz) δ1.25 (dd, J=12 Hz, 4.1 Hz, 2H), 1.34 (dd, J=12 Hz, 4.1 Hz, 2H), 1.51 (br-s, 2H), 1.66 (d, J=12 Hz, 2H), 1.77 (d, J=7.3 Hz, 1H), 1.94 (t, J=9.5 Hz, 2H), 2.48 (s, 3H), 2.80 (d, J=12 Hz, 2H), 3.18 (t, J=6.2 Hz, 2H), 3.35 (s, 2H), 3.45 (s, 2H), 7.18-7.29 (m, 4H), 7.35 (br-s, 1H).

reactant | 4-[(N-(9-fluorenylmethyloxycarbonyl)glycyl}aminomethyl]-1-(4-methylthiobenzyl)piperidine | 590 mg | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NCC(=O)NCC1CCN(CC1)CC1=CC=C(C=C1)SC | C31H35N3O3S
reactant | piperidine | 1 mL | N1CCCCC1 | C5H11N
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 4-{(glycylamino)methyl}-1-(4-methylthiobenzyl)piperidine | 365 mg | NCC(=O)NCC1CCN(CC1)CC1=CC=C(C=C1)SC | C16H25N3OS
